US07473783B2
A suspension of 5-morpholin-4-ylmethyl-furan-2-carboxylic acid hydrochloride in thionyl chloride with 2 drops of DMF was refluxed under N2 for 3 hours, then cooled to room temperature. Dry CH2Cl2 was added and solvents were evaporated in vacuo. The residue was triturated with dry CH2Cl2, and the resulting solid was filtered, washed with dry CH2Cl2 and dried in vacuo to give 373 mg (83% yield) of 5-morpholin-4-ylmethyl-furan-2-carbonyl chloride hydrochloride as a white solid. 1H-NMR (d6-DMSO) δ: 11.54 (broad s, 1H), 7.26 (d, 1H), 6.92 (d, 1H), 4.49 (s, 2H), 3.94 (m, 2H), 3.74 (m, 2H), 3.28 (m, 2H), 3.09 (broad s, 2H).

reactant | 5-morpholin-4-ylmethyl-furan-2-carboxylic acid hydrochloride | Cl.N1(CCOCC1)CC1=CC=C(O1)C(=O)O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 5-morpholin-4-ylmethyl-furan-2-carbonyl chloride hydrochloride | 373 mg, 83% yield | Cl.N1(CCOCC1)CC1=CC=C(O1)C(=O)Cl | InChI=1S/C10H12ClNO3.ClH/c11-10(13)9-2-1-8(15-9)7-12-3-5-14-6-4-12;/h1-2H,3-7H2;1H
